US06897224B2
5-Aminoquinoline-2-carboxylic acid amide
840 mg (4.16 mmol) of 5-aminoquinoline-2-carboxylic acid methyl ester is dissolved in 70 ml of a 7N methanolic ammonia solution. It is stirred for 3.5 hours at 40° C., then for 20 hours at room temperature. After the solvent is removed in a vacuum, the purification is carried out on silica gel with hexane-ethyl acetate (0-100%) as well as with ethyl acetate-methanol (0-10%). 690 mg (88% of theory) of the product is obtained.

reactant | 5-aminoquinoline-2-carboxylic acid methyl ester | 4.16 mmol, 840 mg | COC(=O)C1=NC2=CC=CC(=C2C=C1)N | C11H10N2O2
reactant | ammonia | 7N | N | H3N
product | 5-Aminoquinoline-2-carboxylic acid amide | NC1=C2C=CC(=NC2=CC=C1)C(=O)N | C10H9N3O
